US07737177B2
Preparation of Mupirocin Calcium Dihydrate
Pseudomonic acid (10.00 g, 20 mmole) was dissolved in 100 ml of ethyl acetate at 40° C. Calcium-2-ethyl-hexanoate (3.32 g, 10 mmole) was suspended in 25 ml of water. The solution of pseudomonic acid was added to the calcium-2-ethyl-hexanoate suspension, and the resulting two phases system were stirred for 14 hours. The two phases were then separated, and any traces of ethyl acetate was evaporated from the aqueous phase. The aqueous mupirocin calcium suspension was cooled in the refrigerator to 5° C. and precipitated. The solid mupirocin calcium dihydrate was subsequently filtered, washed with 10 ml water and dried under vacuum at 35° C. for 14 hours. The mass of the product was 7.82 grams.

reactant | Pseudomonic acid | 20 mmole, 10.00 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | Calcium 2-ethyl-hexanoate | 10 mmole, 3.32 g | [Ca].C(C)C(C(=O)[O-])CCCC
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
product | Mupirocin Calcium Dihydrate | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.O.O.[Ca+2] | InChI=1S/2C26H44O9.Ca.2H2O/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;;;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);;2*1H2/q;;+2;;/p-2/b2*16-13+;;;/t2*17-,18-,19-,20-,21-,24+,25-,26-;;;/m00.../s1
